US08404709B2
4-(2-Acetyl-3-oxobut-1-en-1-yl)benzonitrile
2.3 g (17.5 mmol) of 4-formylbenzonitrile, 1.98 ml (19.29 mmol) of 2,4-pentanedione, 1 ml (26 mmol) of acetic acid and 0.34 ml (3.5 mmol) of piperidine in 40 ml of anhydrous dichloromethane are stirred under reflux with a water trap for 24 h. After cooling, the reaction solution is washed successively with saturated sodium bicarbonate solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate and concentrated. The residue is recrystallized from diethyl ether. 3.18 g (85% of theory) of the title compound are obtained as a pale brown solid.

reactant | 4-formylbenzonitrile | 17.5 mmol, 2.3 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | 2,4-pentanedione | 19.29 mmol, 1.98 ml | CC(CC(C)=O)=O | C5H8O2
reactant | acetic acid | 26 mmol, 1 ml | C(C)(=O)O | C2H4O2
reactant | piperidine | 3.5 mmol, 0.34 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-(2-Acetyl-3-oxobut-1-en-1-yl)benzonitrile | C(C)(=O)C(=CC1=CC=C(C#N)C=C1)C(C)=O | C13H11NO2
